### PR TITLE
rt replyRemoveTCB_corres

### PR DESCRIPTION
**Pull request by mktnk3**
This PR contains the final cleaned-up version of the `replyRemoveTCB_corres` proof. Most part of it might have been reviewed elsewhere. The most notable thing perhaps is a simpler version of `sc_with_reply’` as suggested by Corey in #180 , but there isn’t so much change in the proof for that.

This also cleans up various corres rules for `setSchedContext`. A more (most?) generic version of `setSchedContext_corres` is added, and other existing versions are consolidated and derived from it.

### CODE REVIEW

File: proof/refine/ARM/Reply_R.thy [hunk 1]
```diff
@@ -1081,27 +1024,841 @@ lemma sc_replies_relation_replyNext_update:
...
+
+lemma sc_replies_relation_sc_with_reply_heap_path':
+  "\<lbrakk>sc_replies_relation s s'; sc_with_reply rp s = Some scp\<rbrakk>
+  \<Longrightarrow> heap_ls  (replyPrevs_of s') (scReplies_of s' scp) (the (sc_replies_of s scp))
+    \<and> heap_path (replyPrevs_of s') (scReplies_of s' scp) (takeWhile ((\<noteq>) rp) (the (sc_replies_of s scp))) (Some rp)"
+  apply (clarsimp simp: sc_replies_relation_def dest!: sc_with_reply_SomeD)
+  apply (drule_tac x=scp and y="sc_replies sc" in spec2)
+  apply (clarsimp simp: vs_heap_simps)
+  apply (frule (1) heap_path_takeWhile_lookup_next)
+  by (metis (mono_tags) option.sel sc_replies.Some)
```
Comment (mktnk3) [inline proof/refine/ARM/Reply_R.thy:1157]: I forgot to delete this one.

File: proof/refine/ARM/Reply_R.thy [hunk 2]
```diff
@@ -1081,27 +1024,841 @@ lemma sc_replies_relation_replyNext_update:
...
+  shows "sc_at scp s" using assms
+  by (fastforce elim!: pspace_dom_relatedE obj_relation_cutsE
+                 simp: other_obj_relation_def is_sc_obj obj_at_def projectKOs
+                split: Structures_A.kernel_object.split_asm if_split_asm
+                       ARM_A.arch_kernel_obj.split_asm)
+
+lemma sc_replies_relation_sc_with_reply_cross_eq_pred:
+  "\<lbrakk> sc_replies_relation s s'; pspace_relation (kheap s) (ksPSpace s')\<rbrakk>
+    \<Longrightarrow> (\<exists>sc n.
+          kheap s scp = Some (kernel_object.SchedContext sc n) \<and>
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Reply_R.thy:1126]: nitpick: consider improving the intentation?

File: proof/refine/ARM/Reply_R.thy [hunk 3]
```diff
@@ -1081,27 +1024,841 @@ lemma sc_replies_relation_replyNext_update:
...
+  "\<lbrakk>sc_replies_relation s s'; sc_with_reply rp s = Some scp\<rbrakk>
+  \<Longrightarrow> heap_ls  (replyPrevs_of s') (scReplies_of s' scp) (the (sc_replies_of s scp))
+    \<and> rp \<in> set (the (sc_replies_of s scp))"
+  apply (clarsimp simp: sc_replies_relation_def dest!: sc_with_reply_SomeD)
+  apply (drule_tac x=scp and y="sc_replies sc" in spec2)
+  apply (clarsimp simp: vs_heap_simps)
+  apply (frule (1) heap_path_takeWhile_lookup_next)
+  by (metis (mono_tags) option.sel sc_replies.Some)
+
+lemma shows
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Reply_R.thy:1169]: Did not know this was possible! Nice!

File: proof/refine/ARM/Reply_R.thy [hunk 4]
```diff
@@ -1081,27 +1024,841 @@ lemma sc_replies_relation_replyNext_update:
...
+  apply (drule pspace_relation_sc_at[where scp=scp])
+   apply (clarsimp simp: projectKOs opt_map_left_Some)
+  apply (clarsimp simp: obj_at_def is_sc_obj)
+  apply (drule (1) sc_replies_relation_prevs_list', clarsimp simp: opt_map_left_Some)
+  apply (drule (1) heap_ls_unique, clarsimp)
+  done
+
+(* crossing equality for sc_with_reply *)
+lemma sc_replies_relation_sc_with_reply_cross_eq:
+  "\<lbrakk> sc_replies_relation s s'; pspace_relation (kheap s) (ksPSpace s')\<rbrakk>
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Reply_R.thy:1143]: nitpick: extra spaces + indentation (if extra space at start, do we expect extra space at end?)

File: proof/refine/ARM/Reply_R.thy [hunk 5]
```diff
@@ -1081,27 +1024,841 @@ lemma sc_replies_relation_replyNext_update:
...
+  "replyNexts_of s rp = Some nrp \<Longrightarrow> replySCs_of s rp = None" and
+  replySCs_Some_replyNexts_None:
+  "replySCs_of s rp = Some nrp \<Longrightarrow> replyNexts_of s rp = None"
+  by (clarsimp simp: opt_map_def projectKOs obj_at'_def split: option.splits reply_next.splits)+
+
+lemma next_reply_in_sc_replies:
+  "\<lbrakk>sc_replies_relation s s'; sc_with_reply rp s = Some scp; sym_refs (list_refs_of_replies' s');
+    sym_refs (state_refs_of' s'); replyNexts_of s' rp = Some nrp;
+    pspace_aligned' s'; pspace_distinct' s'\<rbrakk>
+  \<Longrightarrow>\<exists>xs ys. sc_replies_of s scp = Some (xs @ nrp # rp # ys)"
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Reply_R.thy:1180]: Very nice! Nitpick: extra space needed after the ==>

File: proof/refine/ARM/Reply_R.thy [hunk 6]
```diff
@@ -1081,27 +1024,841 @@ lemma sc_replies_relation_replyNext_update:
...
+   apply (clarsimp simp: opt_map_None opt_map_left_None set_reply'.not_sc)
+  apply (clarsimp simp: sc_with_reply'_def the_pred_option_def)
+  apply (split if_split_asm; simp)
+  apply (drule the1_equality)
+   apply blast
+  by simp
+
+(* another version of sc_replies_update_takeWhile_not_fst_replies_with_sc? *)
+lemma sc_replies_update_takeWhile_sc_with_reply:
+  "\<lbrace>(\<lambda>s. sc_with_reply rp s = Some scp) and valid_replies\<rbrace>
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Reply_R.thy:1544]: nitpick: indentation

File: proof/refine/ARM/Reply_R.thy [hunk 7]
```diff
@@ -1081,27 +1024,841 @@ lemma sc_replies_relation_replyNext_update:
...
+            in use_valid[OF _ sc_replies_update_take_While_valid_replies, simplified])
+   apply (clarsimp simp: sc_replies_sc_at_def obj_at_def neq_conv[symmetric] return_def
+                         update_sched_context_def in_bind get_object_def exec_gets gets_the_def)
+   apply (metis (no_types, lifting) sched_context.fold_congs(10))
+  apply (fastforce simp: sc_replies_sc_at_def obj_at_def)
+  done
+
+(* FIXME RT: maybe move *)
+lemma update_sched_context_not_tcb_at[wp]:
+  "update_sched_context ref f \<lbrace>\<lambda>s. P(ko_at (TCB tcb) t s)\<rbrace>"
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Reply_R.thy:1583]:
```suggestion
  "update_sched_context ref f \<lbrace>\<lambda>s. P (ko_at (TCB tcb) t s)\<rbrace>"
```

File: proof/refine/ARM/Reply_R.thy [hunk 8]
```diff
@@ -1081,27 +1024,841 @@ lemma sc_replies_relation_replyNext_update:
...
+
+lemma update_sched_context_valid_tcbs[wp]:
+  "update_sched_context ref f \<lbrace>valid_tcbs\<rbrace>"
+  unfolding valid_tcbs_def
+  apply (wpsimp wp: hoare_vcg_all_lift hoare_vcg_imp_lift')
+  done
+(* end: maybe move *)
+
+lemma sc_replies_update_takeWhile_middle_sym_refs:
+  "\<lbrakk>hd (sc_replies sc) \<noteq> rp; rp \<in> set (sc_replies sc) \<rbrakk> \<Longrightarrow>
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Reply_R.thy:1603]:
```suggestion
  "\<lbrakk>hd (sc_replies sc) \<noteq> rp; rp \<in> set (sc_replies sc)\<rbrakk> \<Longrightarrow>
```

File: proof/refine/ARM/Reply_R.thy [hunk 9]
```diff
@@ -1081,27 +1024,841 @@ lemma sc_replies_relation_replyNext_update:
...
+  done
+
+lemma replyPrevNext_update_commute:
+  "replyPrev_update Map.empty (replyNext_update Map.empty reply)
+   = replyNext_update Map.empty (replyPrev_update Map.empty reply)"
+  by (cases reply; clarsimp)
+
+lemma updateReply_Prev_Next_rewrite:
+  "monadic_rewrite False True (reply_at' rp)
+    (do y <- updateReply rp (replyPrev_update Map.empty);
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Reply_R.thy:1674]: idea: it may be possible to strengthen this by replacing each `Map.empty` with `x` and `y`?

File: proof/refine/ARM/Reply_R.thy [hunk 10]
```diff
@@ -1081,27 +1024,841 @@ lemma sc_replies_relation_replyNext_update:
...
+lemma reply_sc_update_sc_with_reply_None:
+  "set_reply_obj_ref reply_sc_update rp None \<lbrace>\<lambda>s. sc_with_reply rp s = None\<rbrace>"
+  apply (wpsimp wp: update_sk_obj_ref_wp)
+  apply (drule sc_with_reply_NoneD)
+  apply (simp add: sc_with_reply_def sc_replies_sc_at_def obj_at_def)
+  apply (rule the_pred_option_None)
+  by (metis Structures_A.kernel_object.simps(45) option.simps(1))
+
+(* cleanReply corres when rp is not in a reply stack *)
+lemma cleanReply_sc_with_reply_None_corres:
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Reply_R.thy:1705]: Since we have `cleanReply_sr_inv` earlier. It seems as if this is effectively comparing `set_reply_obj_ref reply_sc_update rp None` with `return ()`? If this lemma is really quite useful in the context it's used, I suggest renaming it or adding a comment to remind the ready that `cleanReply` is really a no-op here.

File: proof/refine/ARM/Reply_R.thy [hunk 11]
```diff
@@ -1081,27 +1024,841 @@ lemma sc_replies_relation_replyNext_update:
...
+         apply (wpsimp wp: reply_sc_update_sc_with_reply_None simp: isHead_def)+
+     apply simp+
+  done
+
+(* corres between update_sched_context and updateReply *)
+lemma updateReply_replyPrev_takeWhile_middle_corres:
+  assumes
+    "rp \<in> set (sc_replies sc)"
+    "st = Structures_A.thread_state.BlockedOnReply rp"
+    "st' = Structures_H.thread_state.BlockedOnReply (Some rp)" "hd (sc_replies sc) \<noteq> rp"
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Reply_R.thy:1735]: * It appears that `st'` is not used?
* If `st = ...` is in the assumptions, I would prefer for it to be substituted into the preconditions. Otherwise this corres rule will produce one more subgoal than is needed, and one more schematic than is needed.

File: proof/refine/ARM/IpcCancel_R.thy [hunk 12]
```diff
@@ -510,34 +510,468 @@ lemma gbep_ret':
...
+               apply (drule heap_path_head, clarsimp)
+               apply (drule (3) sym_refs_replySCs_of_scReplies_of[THEN iffD2, rotated])
+               apply (clarsimp simp: obj_at'_def projectKOs)
+
+              apply (frule (1) heap_path_takeWhile_lookup_next)
+              apply (frule heap_path_head, clarsimp)
+              apply (prop_tac "takeWhile ((\<noteq>) rp) xs = hd xs # tl (takeWhile ((\<noteq>) rp) xs)")
+               apply (case_tac xs; simp)
+              apply (simp del: heap_path.simps)
+              apply (drule_tac p1="hd xs" and ps1="tl (takeWhile ((\<noteq>) rp) xs)" in sym_refs_reply_heap_path_doubly_linked_Nexts_rev[where p'=rp, THEN iffD1])
```
Comment (MitchellBuckley) [inline proof/refine/ARM/IpcCancel_R.thy:755]: nitpick: wrap this very long line.

**Review by MitchellBuckley — APPROVED** [review]
Looks good! I have only one or two suggestions, and some nitpicks about space/indentation.

File: proof/refine/ARM/Reply_R.thy (hunk 11 above)
Comment (mktnk3) [reply proof/refine/ARM/Reply_R.thy:1735]: Thanks, it turned out that all references to `t` are unnecessary in this lemma. So, `st_tcb_at` itself can go.

File: proof/refine/ARM/Reply_R.thy (hunk 10 above)
Comment (mktnk3) [reply proof/refine/ARM/Reply_R.thy:1705]: Right, yes, it is true that this has no-op on both sides, and we can do a bit more abstraction here. Let me see...

File: proof/refine/ARM/Reply_R.thy (hunk 9 above)
Comment (mktnk3) [reply proof/refine/ARM/Reply_R.thy:1674]: yes, indeed!

File: proof/refine/ARM/Reply_R.thy (hunk 3 above)
Comment (corlewis) [reply proof/refine/ARM/Reply_R.thy:1169]: Neither!

**Review by corlewis — APPROVED** [review]
Same as before, great job with this massive proof!

File: proof/refine/ARM/Reply_R.thy [hunk 13]
```diff
@@ -1081,27 +1024,841 @@ lemma sc_replies_relation_replyNext_update:
...
+(* FIXME RT: from Invariants_AI; rephrase replies *)
+lemma valid_objs_sc_replies_reply_at:
+  "\<lbrakk>valid_objs s; sc_replies_sc_at (\<lambda>rs. rp \<in> set rs) sc_ptr s\<rbrakk> \<Longrightarrow> reply_at rp s"
+  by (fastforce simp: sc_replies_sc_at_def obj_at_def valid_sched_context_def list_all_def
+                dest: valid_sched_context_objsI)
+
+lemma sc_with_reply_Some_reply_at:
+  "\<lbrakk>sc_with_reply rp s = Some scp; valid_objs s\<rbrakk> \<Longrightarrow> reply_at rp s"
+  by (fastforce dest: sc_with_reply_SomeD1 valid_objs_sc_replies_reply_at)
+(* end FIXME RT: move to AInvs *)
```
Comment (VictorPhan) [inline proof/refine/ARM/Reply_R.thy:1263]: does this comment apply to the previous or next lemma?

File: proof/refine/ARM/Reply_R.thy [hunk 14]
```diff
@@ -1081,27 +1024,841 @@ lemma sc_replies_relation_replyNext_update:
...
+  \<Longrightarrow> sc_with_reply prv_rp s = None"
+  supply opt_mapE[rule del]
+  apply (subgoal_tac "sc_with_reply' prv_rp s' = None")
+   apply (fastforce simp: sc_replies_relation_sc_with_reply_cross_eq)
+  apply (prop_tac "reply_at rp s")
+   apply (clarsimp simp: projectKOs elim!: opt_mapE)
+   apply (erule (1) pspace_dom_relatedE)
+   apply (erule (1) obj_relation_cutsE)
+         apply ((clarsimp simp: other_obj_relation_def is_reply obj_at_def
+                        split: Structures_A.kernel_object.split_asm if_split_asm
```
Comment (VictorPhan) [inline proof/refine/ARM/Reply_R.thy:1318]: nitpick: indentation

File: proof/refine/ARM/Reply_R.thy [hunk 15]
```diff
@@ -1081,27 +1024,841 @@ lemma sc_replies_relation_replyNext_update:
...
+    sym_refs (state_refs_of' s'); sym_refs (list_refs_of_replies' s');
+    replyNexts_of s' rp = Some nxt_rp\<rbrakk>
+   \<Longrightarrow> sc_with_reply nxt_rp s = None"
+  supply opt_mapE[rule del]
+  apply (prop_tac "reply_at rp s")
+   apply (clarsimp simp: projectKOs elim!: opt_mapE)
+   apply (erule (1) pspace_dom_relatedE)
+   apply (erule (1) obj_relation_cutsE)
+         apply ((clarsimp simp: other_obj_relation_def is_reply obj_at_def
+                        split: Structures_A.kernel_object.split_asm if_split_asm
```
Comment (VictorPhan) [inline proof/refine/ARM/Reply_R.thy:1353]: nitpick: indentation

**Review by VictorPhan — APPROVED** [review]

File: proof/refine/ARM/Reply_R.thy (hunk 10 above)
Comment (mktnk3) [reply proof/refine/ARM/Reply_R.thy:1705]: Ok, I think I now remember why this is done in this particular way. I could easily write a version of this lemma using`cleanReply_sr_inv` and a `sr_inv` version of `corres_noop2`, but it will require `sym_refs (state_refs_of s)` in the assumption and it is really a pain to carry it through in the locations where this lemma is used in the main corres proof. I think I will stick to the current version and add some comments.

File: proof/refine/ARM/Reply_R.thy [hunk 16]
```diff
@@ -1081,27 +1024,841 @@ lemma sc_replies_relation_replyNext_update:
...
+  unfolding cleanReply_def
+  apply (rule no_fail_pre, rule no_fail_bind)
+     apply (wpsimp wp: updateReply_wp_all)+
+  apply (clarsimp simp: obj_at'_def ps_clear_upd' objBits_simps' projectKOs)
+  done
+
+(* sc_with_reply/sc_with_reply' *)
+
+(* FIXME RT: replace the one in ArchFinalise_AI *)
+lemma sc_with_reply_None_reply_sc_reply_at:
```
[the remark this answers is not in the document]
Comment (mktnk3) [reply proof/refine/ARM/Reply_R.thy:1063]: This one and `pspace_relation` below come with comments describing what cleanup we should do about them and are listed in the cleanup JIRA ticket (VER-1391). This includes the current locations, too, and I will leave these where they are now and hope that they are addressed soon enough.

File: proof/refine/ARM/Reply_R.thy [hunk 17]
```diff
@@ -1081,27 +1024,841 @@ lemma sc_replies_relation_replyNext_update:
...
+    \<Longrightarrow> heap_ls (replyPrevs_of s') (scReplies_of s' scp) (sc_replies sc)"
+  apply (clarsimp simp: sc_replies_relation_def sc_replies_of_scs_def scs_of_kh_def map_project_def)
+  apply (clarsimp simp: opt_map_left_Some sc_of_def)
+  done
+
+(* FIXME RT: move to TcbAcc_R? also, drop alignment conditions from TcbAcc_R.pspace_relation_tcb_at *)
+lemma pspace_relation_sc_at:
+  assumes p: "pspace_relation (kheap s) (ksPSpace s')"
+  assumes t: "scs_of' s' scp \<noteq> None"
+  shows "sc_at scp s" using assms
```
[the remark this answers is not in the document]
Comment (mktnk3) [reply proof/refine/ARM/Reply_R.thy:1117]: See the cleanup JIRA ticket ([VER-1391](the cleanup JIRA ticket (VER-1391).)).

File: proof/refine/ARM/Reply_R.thy (hunk 13 above)
Comment (mktnk3) [reply proof/refine/ARM/Reply_R.thy:1250]: This is the closing comment for FIXME move three lemmas above.
